US04622403
STEP C Preparation of 5-(2,3-dihydro-1H-benzo[b]indeno[5,6-f]thiepin-7-yl)tetrazole
A solution of 2,3-dihydro-1H-benzo[b]indeno[5,6-f]thiepin-7-carbonitrile (2.10 g, 7.625 mmole) in dimethylformamide (31.5 ml) stirred under reflux (oil-bath at 170°-180° C.) in an atmosphere of argon was treated with a mixture of sodium azide (743 mg, 11.44 mmole) and ammonium chloride (612 mg, 11.44 mmole). An equal portion of sodium azide and ammonium chloride was added after 1 hour and then at 30 minute intervals seven portions of a mixture of sodium azide (247 mg, 3.81 mmole) and ammonium chloride (204 mg, 391 mmole) were added. After heating for a further 1 hour the reaction mixture was allowed to cool, then it was diluted with water (150 ml) and acidified. An extraction with methylene chloride (250 ml) was performed. The methylene chloride solution was extracted with a mixture of water (100 ml) and 5N sodium hydroxide (10 ml) and after a further wash with water the combined aqueous extract on acidification yields 1.555 g of title compound.

reactant | 2,3-dihydro-1H-benzo[b]indeno[5,6-f]thiepin-7-carbonitrile | 7.625 mmole, 2.10 g | C1CCC2=CC3=C(C=CC4=C(S3)C=C(C=C4)C#N)C=C12 | C18H13NS
reactant | sodium azide | 11.44 mmole, 743 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 11.44 mmole, 612 mg | [Cl-].[NH4+]
reactant | sodium azide | 3.81 mmole, 247 mg | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 391 mmole, 204 mg | [Cl-].[NH4+]
solvent | dimethylformamide | 31.5 ml | CN(C=O)C | C3H7NO
solvent | water | 150 ml | O | H2O
product | 5-(2,3-dihydro-1H-benzo[b]indeno[5,6-f]thiepin-7-yl)tetrazole | 1.555 g | C1CCC2=CC3=C(C=CC4=C(S3)C=C(C=C4)C4=NN=NN4)C=C12 | C18H14N4S
